US04981849
A mixture of ethyl 5-chloro-3-methyl-2 -benzofurancarboxylate (52.5 g, 0.22 mol), N-bromosuccinimide (39.15 g, 0.22 mol) and benzoyl peroxide (0.4 g) in carbon tetrachloride (750 ml) was stirred and refluxed for 10 hours. The mixture was cooled, filtered and the filtrate was concentrated. The crude product was recrystallized from hexane to give 52.8 g (76%) of ethyl 3-bromomethyl-5-chloro-2-benzofurancarboxylate: mp 112-114° C.

reactant | ethyl 5-chloro-3-methyl-2 -benzofurancarboxylate | 0.22 mol, 52.5 g | ClC=1C=CC2=C(C(=C(O2)C(=O)OCC)C)C1 | C12H11ClO3
reactant | N-bromosuccinimide | 0.22 mol, 39.15 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 750 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | ethyl 3-bromomethyl-5-chloro-2-benzofurancarboxylate | 52.8 g, 76% | BrCC1=C(OC2=C1C=C(C=C2)Cl)C(=O)OCC | C12H10BrClO3
